Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
elevated BP and headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ G3P2 7 days PP s/p SVD with chronic hypertension presented 
to ED ___ with HA, pleuritic chest pain and elevated BP at 
home.  Patient started having elevated BP since ___ and had 
normal PIH labs on multiple occasions. Postpartum she has 
continued to have elevated BP and was started on labetalol 200mg 
BID postpartum. She has been checking her BP at home and today 
it
was as high as 189/115 associated with a frontal throbbing HA. 
She called the office and while on the phone the provider noted 
that she seemed short of breath which the patient agreed with. 
Given this constellation of symptoms and elevated BP she was 
told to present to the emergency department. 

Upon arrival to the ED her vitals were BP 160-170/100s HR ___ RR 
16 O2 sat 97-100% RA. She was given a 6gm Magnesium bolus 
followed by a 2gm/hr drip given concern for postpartum 
pre-eclampsia and had a CTA chest done before transfer to L&D.

Upon arrival to L&D she reports continued frontal HA. Denies 
other neurologic sx incl vision changes. She has not taken 
anything for her headache. She denies any RUQ pain. She states 
that she continues to have pleuritic chest pain that is 
unchanged from prior and mild SOB.

She also reports that since discharge she has had a 
non-productive cough, central chest pain with deep inspiration 
and mild dyspnea on exertion. She denies any fevers, chills, 
n/v, abdominal pain. Her lochia has been mild. 

 
Past Medical History:
PObHx: G3P2
- SAB
- SVD 6 lb 1.4 oz at 35w6d c/b gHTN
- current

PGynHx: 
- PCOS
- No history of LEEP or other cervical procedure

PMHx: chronic hypertension

PSHx: wisdom teeth, ACL surgery
 
Social History:
 Denies tobacco, alcohol, and drug use

 
Physical Exam:
Admission Physical
BP 160-170/100s HR ___ RR 16 O2 sat 97-100% RA
Gen - well appearing, NAD
CV - RRR
Lungs - fine bibasilar crackles, good air movement
Abd - soft, NT
Ext - trace peripheral edema b/l, non-tender, 1+ patellar
reflexes

 
Pertinent Results:
___ 02:06PM BLOOD WBC-7.8 RBC-3.85* Hgb-12.4 Hct-37.4 
MCV-97 MCH-32.2* MCHC-33.2 RDW-12.9 RDWSD-45.1 Plt ___
___ 02:06PM BLOOD Neuts-49.4 ___ Monos-8.2 Eos-5.5 
Baso-0.6 Im ___ AbsNeut-3.87 AbsLymp-2.80 AbsMono-0.64 
AbsEos-0.43 AbsBaso-0.05
___ 03:45PM BLOOD ___ PTT-32.1 ___
___ 02:06PM BLOOD Glucose-78 UreaN-13 Creat-0.9 Na-138 
K-4.6 Cl-105 HCO3-22 AnGap-16
___ 02:06PM BLOOD Lipase-23
___ 02:06PM BLOOD proBNP-824*
___ 02:06PM BLOOD Albumin-3.5 Calcium-9.1 Phos-4.7* Mg-1.9
___ 02:06PM BLOOD D-Dimer-1124*
___ 05:11PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:11PM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 05:11PM URINE RBC-1 WBC-8* Bacteri-FEW Yeast-NONE Epi-2
___:30PM URINE Hours-RANDOM Creat-29 TotProt-<6 
Prot/Cr-<0.2

___ CXR
IMPRESSION: 
    
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Mild diffuse ground-glass opacification right perihilar 
predominance, and with small bilateral nonhemorrhagic pleural 
effusions, likely due to mild pulmonary edema. 

 
Brief Hospital Course:
Ms ___ is a ___ s/p SVD ___ readmitted with 
chronic hypertension with superimposed pre-eclampsia and 
pulmonary edema and bronchitis. She was stabilized on L&D with 
PO nifedipine and was started on Magnesium for severe 
pre-eclampsia. The magnesium was discontinued 6 hours after 
start of infusion for mild pulmonary edema confirmed on CXR. Her 
blood pressures were controlled on nifedpine 30mg CR started on 
___. She did not have other severe symptoms of pre-eclampsia and 
had adequate urine output. Her bronchitis was stable, likely 
viral in etiology, did not require antibiotic regiment and was 
controlled symptomatically. She was discharged in stable 
condition on hospital day 2 on nifedipine and with outpatient 
follow up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 200 mg PO BID 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q4H:PRN Pain 
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
4. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Postpartum severe preeclampsia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Routine postpartum instructions
 
Followup Instructions:
___